US04636521
(ii) N-[[3-(Cyanomethyl)-1H-indol-5-yl]methyl]methanesulphonamide
Methyl iodide (0.15 ml) was added to a stirred solution of N-[[3-[(dimethylamino)methyl]-1H-indol-5-yl]methyl]methanesulphonamide (0.5 g) in dimethyl sulphoxide (20 ml) followed by potassium cyanide (0.3 g) and the resulting solution stirred for 2 h, before pouring it into water (80 ml) and extracting with ethyl acetate (2×30 ml). The combined organic extracts were washed with water (30 ml), hydrochloric acid (2N, 30 ml) dried (Na2SO4) and evaporated to dryness to give a fawn foam which was purified on a silica column (kieselgel 60, 10 g) eluted with ethyl acetate to give the title compound as a white solid (0.08 g) m.p. 106°-9° after crystallisation from ethyl acetate.

reactant | Methyl iodide | 0.15 ml | CI | CH3I
reactant | N-[[3-[(dimethylamino)methyl]-1H-indol-5-yl]methyl]methanesulphonamide | 0.5 g | CN(C)CC1=CNC2=CC=C(C=C12)CNS(=O)(=O)C | C13H19N3O2S
reactant | potassium cyanide | 0.3 g | [C-]#N.[K+]
reactant | water | 80 ml | O | H2O
solvent | dimethyl sulphoxide | 20 ml | CS(=O)C | C2H6OS
product | N-[[3-(Cyanomethyl)-1H-indol-5-yl]methyl]methanesulphonamide | 0.08 g | C(#N)CC1=CNC2=CC=C(C=C12)CNS(=O)(=O)C | C12H13N3O2S
